US05792869
To a solution of L-phenylalanine 1.65 g (10 mmol) in 2N sodium hydroxide aqueous solution, cooled in an ice-water bath and under vigorous stirring, a mixture of methanesulfonyl chloride 1.26 g (11 mmol) and tetrahydrofuran 3 ml, and 2N sodium hydroxide aqueous solution 6 ml were added dropwise and alternately each in three portions. After completion of addition stirring was continued under ice-water cooling for 5 minutes, further, at room temperature for 1 hour. 6N hydrochloric acid 2 ml was added, and extraction was made with 30 ml of chloroform. Organic layer was washed with water and dried, and the solvent distilled off to obtain crude N-Ms-L-Phe as an oil. The crude product was purified by silica gel column chromatography- (eluent: chloroform, ethyl acetate) to give pure N-Ms-L-Phe 1.00 g as an oil. The yield based on the used L-phenylalanine was 41.0%.

reactant | L-phenylalanine | 10 mmol, 1.65 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | methanesulfonyl chloride | 11 mmol, 1.26 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 6N, 2 ml | Cl | ClH
solvent | sodium hydroxide | 2N | [OH-].[Na+]
solvent | sodium hydroxide | 2N, 6 ml | [OH-].[Na+]
product | N-Methanesulfonyl-D-phenylalanine | 1.00 g | CS(=O)(=O)N[C@H](CC1=CC=CC=C1)C(=O)O | C10H13NO4S
